US06783814B2
6,14-di-tert-butyl-9,10-dihydro-9,10[1′,2′]benzenoanthracene-1,4-diol 45 is illustrated in FIG. 9F. 2,6-di-tert-butyl-anthracene (19.0 g, 0.0654 mol) and 1,4-benzoquinone (7.78 g, 0.072 mol) in xylenes (150 ml) was heated to reflux for 2 h. Solvent was removed in vacuo and the crude product was purified by flash chromatography (2:3, hexane:dichloromethane) to give benzenoanthracene-1,4-dione, which was dissolved in acetic acid (150 ml) and heated to reflux and a drop of aqueous HBr (48%). After 10 min, the reaction was cooled and water was added. Precipitates were collected and dried to give compound 45 as an off-white solid (12.73 g, 0.0319 mol, 49%).

reactant | 2,6-di-tert-butyl-anthracene | 0.0654 mol, 19.0 g | C(C)(C)(C)C1=CC2=CC3=CC=C(C=C3C=C2C=C1)C(C)(C)C | C22H26
reactant | 1,4-benzoquinone | 0.072 mol, 7.78 g | C1(C=CC(C=C1)=O)=O | C6H4O2
product | benzenoanthracene-1,4-dione | C1(C=CC(C=2C=CC=3C=C4C=CC=CC4=CC3C21)=O)=O | C18H10O2
